* D:\Stuffs\workspace\esp32\msys32\home\yasha\esp\psd_fft_oled\sim\spice\Active Filter.asc
R1 3.3v N002 220k
R2 N002 0 220k
R3 N001 in 110k
R4 out N001 20k
C1 out N001 2n
V1 3.3v 0 3.3
V2 in 0 SINE(1.6 1.65 100) AC 5
XU1 N002 N001 3.3v 0 out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V3 2.2v 0 1.1v
.ac dec 10 0.5 10000
.lib UniversalOpamps2.sub
.backanno
.end
